US20010016655A1
The procedure of Example 2 was repeated using 30.6 grams Naxonate ST, a commercially available sodium toluene sulfonate from Ruetgers-Naese (0.15 mol sodium toluene sulfonate with a content of 93%) instead of phthalimide to yield a product in which toluene sulfonic acid methyl 6,13-dihydro quinacridone having a molecular weight of 500 was detected by MALDI.

reactant | Naxonate | 30.6 grams | CC1=C(C=C(C=C1)S(=O)(=O)[O-])C.[Na+]
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
product | sodium toluene sulfonate | 0.15 mol | C=1(C(=CC=CC1)S(=O)(=O)[O-])C.[Na+] | InChI=1S/C7H8O3S.Na/c1-6-4-2-3-5-7(6)11(8,9)10;/h2-5H,1H3,(H,8,9,10);/q;+1/p-1
